US07989433B2
A mixture of 6-(4-chlorophenyl)-3-(4-((3,3-difluoro-1-hydroxycyclobutyl)methoxy)-3-methoxyphen-yl)thieno[3,2-d]pyrimidin-4(3H)-one (1.01 g, 2.000 mmol) described in Example 2, dibenzyl diisopropylphosphoramidite (2.073 g, 6.00 mmol) and 1H-1,2,4-triazole (0.414 g, 6.00 mmol) in 1,2-dichloroethane (30 mL) was heated at reflux temperature. After 1 h, the mixture was cooled to RT; whereupon, 2 mL 50% H2O2 was added. After stirring for 15 minutes at RT, the mixture was diluted with CH2Cl2, washed sequentially with water, 5% aq. sodium thiosulfate and water. The organic layer was dried over MgSO4, concentrated and the crude product was subjected to flash chromatography (silica gel/hexane-EtOAc 100:0 to 0:100 gradient) to afford dibenzyl 1-((4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl)-2-methoxyphenoxy)methyl)-3,3-difluorocyclobutyl phosphate (1.3 g, 1.699 mmol, 85% yield). 1H NMR (400 MHz, chloroform-d) δ ppm 8.10 (1 H, s), 7.66 (2 H, d, J=8.56 Hz), 7.54 (1 H, s), 7.45 (2H, d, J=8.56 Hz), 7.28-7.40 (10 H, m), 6.95 (1 H, d, J=8.56 Hz), 6.92 (1 H, d, J=2.27 Hz), 6.87 (1 H, dd, J=8.31, 2.27 Hz), 5.08 (4 H, dd, J=7.81, 1.26 Hz), 4.32 (2 H, s), 3.76 (3 H, s), 2.89-3.30 (4 H, m).

reactant | 6-(4-chlorophenyl)-3-(4-((3,3-difluoro-1-hydroxycyclobutyl)methoxy)-3-methoxyphen-yl)thieno[3,2-d]pyrimidin-4(3H)-one | 2.000 mmol, 1.01 g | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)OCC1(CC(C1)(F)F)O)OC | C24H19ClF2N2O4S
reactant | dibenzyl diisopropylphosphoramidite | 6.00 mmol, 2.073 g | C(C)(C)N(P(OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(C)C | C20H28NO2P
reactant | 1H-1,2,4-triazole | 6.00 mmol, 0.414 g | N1N=CN=C1 | C2H3N3
reactant | H2O2 | 2 mL | OO | H2O2
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | dibenzyl 1-((4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl)-2-methoxyphenoxy)methyl)-3,3-difluorocyclobutyl phosphate | 1.699 mmol, 1.3 g, 85% yield | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OC1(CC(C1)(F)F)COC1=C(C=C(C=C1)N1C=NC2=C(C1=O)SC(=C2)C2=CC=C(C=C2)Cl)OC | C38H32ClF2N2O7PS
